US08461175B2
A 250 ml three-necked flask equipped with a magnetic stirrer and an argon intake is charged with 4 g of 5-(2,6-difluorophenyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline, prepared in step 6 of example 1, in 120 ml of THF and 3 ml of DMF. The mixture is cooled to 0° C. using an ice bath and then 952 mg of sodium hydride (60%) are added. After 15 min at 0° C., 1.3 ml of dimethylsulphamoyl chloride are added. After 16 h at RT, the mixture is poured into 300 ml of water and extracted with ethyl acetate. The organic phase is dried over MgSO4, filtered and concentrated under RP. The solid obtained is triturated in diisopropyl ether. The insoluble material is filtered off under RP and dried under vacuum to give 2.94 g of 5-(2,6-difluorophenyl)-7-iodo-N,N-dimethyl-1H-pyrazolo[4,3-c]isoquinoline-1-sulphonamide (beige solid). LC-MS-DAD-ELSD: 515(+)=(M+H)(+).

reactant | 5-(2,6-difluorophenyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline | 4 g | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)I)NN=C2 | C16H8F2IN3
reactant | sodium hydride | 952 mg | [H-].[Na+]
reactant | dimethylsulphamoyl chloride | 1.3 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | water | 300 ml | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-(2,6-difluorophenyl)-7-iodo-N,N-dimethyl-1H-pyrazolo[4,3-c]isoquinoline-1-sulphonamide | 2.94 g | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)I)N(N=C2)S(=O)(=O)N(C)C | C18H13F2IN4O2S
